US08017631B2
3-(5-Furan-2-yl-[1,2,4]oxadiazol-3-yl)-pyridine (Compound 3.1)
Furan-2-carboxylic acid (0.8 g; 7 mmol) in 15 ml of dichloromethane was cooled to 0° C., and 0.76 g of 1,3-dicyclohexylcarbodimide (4 mmol) was added slowly. The reaction mixture was stirred at 0-5° C. for 2 hours and filtered. The filtrate was evaporated, the residue was dissolved in 15 ml of pyridine and added 0.43 g of N-hydroxy-nicotinamidine (3.2 mmol). The reaction mixture was heated at reflux until the reaction was finished (measured by TLC), then cooled to room temperature and poured into 100 ml of water. The precipitate was isolated by filtration and dried under vacuum. The product was isolated by column chromatography. Yield 0.23 g (15%). Mp. 110-114° C.

reactant | Furan-2-carboxylic acid | 7 mmol, 0.8 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | 1,3-dicyclohexylcarbodimide | 4 mmol, 0.76 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxy-nicotinamidine | 3.2 mmol, 0.43 g | ONC(C1=CN=CC=C1)=N | C6H7N3O
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-(5-Furan-2-yl-[1,2,4]oxadiazol-3-yl)-pyridine | O1C(=CC=C1)C1=NC(=NO1)C=1C=NC=CC1 | C11H7N3O2
